US04132803
N-[3-(Mercaptoacetylamino)benzoyl]glycine Ammonium Salt Sesquihydrate. -- An aqueous solution of 3N ammonium hydroxide (7.2 ml., 0.0216 mole) is slowly added to a suspension of N-[3-(mercaptoacetylamino)benzoyl]glycine (5 g., 0.0186 mole) in 40 ml. of tetrahydrofuran with 5 mg. of disodium edetate. The resulting solution is diluted with 300 ml. of tetrahydrofuran and after cooling in a dry ice-ethanol bath to promote crystallization is stirred overnight. The precipitated solid is collected, washed with tetrahydrofuran and air dried to afford 4.6 g., (79.3% yield) of N-[3-(mercaptoacetylamino)benzoyl]glycine ammonium salt susquihydrate, m.p. 56-119° C. (dec.).

reactant | N-[3-(Mercaptoacetylamino)benzoyl]glycine Ammonium Salt Sesquihydrate | O.[NH4+].SCC(=O)NC=1C=C(C(=O)NCC(=O)[O-])C=CC1.O.O.SCC(=O)NC=1C=C(C(=O)NCC(=O)[O-])C=CC1.[NH4+]
reactant | ammonium hydroxide | 0.0216 mole, 3N, 7.2 ml | [OH-].[NH4+]
reactant | N-[3-(mercaptoacetylamino)benzoyl]glycine | 0.0186 mole, 5 g | SCC(=O)NC=1C=C(C(=O)NCC(=O)O)C=CC1 | C11H12N2O4S
reactant | disodium edetate | C(N(CC(=O)[O-])CC(=O)O)CN(CC(=O)O)CC(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[3-(mercaptoacetylamino)benzoyl]glycine ammonium salt | 79.3% yield | [NH4+].SCC(=O)NC=1C=C(C(=O)NCC(=O)[O-])C=CC1 | InChI=1S/C11H12N2O4S.H3N/c14-9(6-18)13-8-3-1-2-7(4-8)11(17)12-5-10(15)16;/h1-4,18H,5-6H2,(H,12,17)(H,13,14)(H,15,16);1H3
